US07101892B2
1-Methyl-2-(propane-2-sulphonyl)benzene
A mixture of 2-methylbenzenethiol (2.37 ml, 20 mmol), potassium carbonate (6.91 g, 50 mmol) and 2-iodopropane (6.00 ml, 60 mmol) in acetonitrile (20 ml) was stirred at 60° C. for 3 days. The mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was dissolved in methanol (10 ml) and water (2 ml), treated with Oxone™ (18.51 g, 30 mmol) and stirred at room temperature for 3 hours. The mixture was concentrated in vacuo and the residue partitioned between ethyl acetate and water. The organic layer was dried (MgSO4) and concentrated in vacuo to give the title compound (3.44 g, 87%).

reactant | 2-methylbenzenethiol | 20 mmol, 2.37 ml | CC1=C(C=CC=C1)S | C7H8S
reactant | potassium carbonate | 50 mmol, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 60 mmol, 6.00 ml | IC(C)C | C3H7I
reactant | water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-Methyl-2-(propane-2-sulphonyl)benzene | 3.44 g, 87% | CC1=C(C=CC=C1)S(=O)(=O)C(C)C | C10H14O2S
